US09164384B2
A solution was obtained by combining 20.2 g of 4-hydroxyphenyl phenyl sulfide which had been synthesized according to the well-known formulation, 15.3 g of 2,2,2-trifluoroethyl p-toluenesulfonate, 12.4 g of potassium carbonate, and 80 g of DMF. The solution was aged at 100° C. for 16 hours. The aged solution was cooled to room temperature, to which 50 g of water was added to quench the reaction. To the solution, 200 g of toluene was added for extraction. The organic layer was separated, and washed with 100 g of 5 wt % sodium hydroxide aqueous solution and water in sequence. On subsequent concentration in vacuum, 16.4 g of the target compound, phenyl 4-(2,2,2-trifluoroethoxy)phenyl sulfide was obtained as oily matter. Yield 96%.

reactant | 4-hydroxyphenyl phenyl sulfide | 20.2 g | C1(=CC=CC=C1)SC1=CC=C(C=C1)O | C12H10OS
reactant | 2,2,2-trifluoroethyl p-toluenesulfonate | 15.3 g | C1(=CC=C(C=C1)S(=O)(=O)OCC(F)(F)F)C | C9H9F3O3S
reactant | potassium carbonate | 12.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 80 g | CN(C)C=O | C3H7NO
solvent | toluene | 200 g | C1(=CC=CC=C1)C | C7H8
solvent | water | 50 g | O | H2O
product | phenyl 4-(2,2,2-trifluoroethoxy)phenyl sulfide | Yield 96% | FC(COC1=CC=C(C=C1)SC1=CC=CC=C1)(F)F | C14H11F3OS
